US08389524B2
(e) 1-[(4-Amino-1-piperidinyl)methyl]-1,2,5a,8b-tetrahydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione
A solution of 1,1-dimethylethyl {1-[(3,8-dioxo-1,2,5a,8b-tetrahydro-3H,8H-2a,5,8a-triazaacenaphthylen-1-yl)methyl]-4-piperidinyl}carbamate (37 mg, 0.092 mmol) in anhydrous dichloromethane (2 ml) was treated with TFA (1 ml) and stirred at room temperature for 1 hour, evaporated to dryness, mixed with anhydrous dichloromethane and evaporated to a dark gum. This gum was dissolved in 1:1 dichloromethane:methanol (10 ml) and treated with MP-carbonate resin (600 mg) and stirred for 1.5 hours. The reaction was filtered and the resin was washed with 1:1 dichloromethane:methanol (30 ml) and the filtrate was evaporated to dryness. Purification on a 5 g SCX column eluting with a methanol to 2N methanolic ammonia gradient gave the product as a gum. Further evaporation from diethyl ether gave the product as a brown solid (22.8 mg, 82%).

reactant | 1,1-dimethylethyl {1-[(3,8-dioxo-1,2,5a,8b-tetrahydro-3H,8H-2a,5,8a-triazaacenaphthylen-1-yl)methyl]-4-piperidinyl}carbamate | 0.092 mmol, 37 mg | O=C1N2CC(N3C(C=CC(N=C1)C32)=O)CN3CCC(CC3)NC(OC(C)(C)C)=O | C20H29N5O4
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-[(4-Amino-1-piperidinyl)methyl]-1,2,5a,8b-tetrahydro-3H,8H-2a,5,8a-triazaacenaphthylene-3,8-dione | NC1CCN(CC1)CC1CN2C(C=NC3C=CC(N1C23)=O)=O | C15H21N5O2
